US09163011B2
d) (R)-3-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester
To a suspension of zinc (466 mg, 7.12 mmol) and copper(I) chloride (34 mg, 0.344 mmol) in dry THF (20 ml) were added 3 drops of trimethylchlorosilane under nitrogen to activate the zinc. After 10 minutes ethyl 2-bromo-2,2-difluoroacetate (1.398 g, 6.89 mmol) was added slowly by syringe over a period of 10 minutes at 25° C. (slightly exothermic). The reaction mixture was kept in an ultrasound bath for 45 minutes. This black fine suspension was added dropwise to a solution of (R)-2-methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-eth-(E)-ylidene]-amide) (1 g, 2.296 mmol) in dry THF (10 ml) at it under inert atmosphere. After 4 h at it the reaction mixture was added to a cold aq. ammonium chloride solution (5%) and was diluted with ethyl acetate. The organic phase was washed with aq. citric acid (5% solution), water, sat. sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and concentrated. The crude brownish oil (1.5 g) was chromatographed over silica gel (cyclohexane/ethyl acetate 83:17) to give the title compound as a light yellow oil. 984 mg (77% yield).

reactant | ethyl 2-bromo-2,2-difluoroacetate | 6.89 mmol, 1.398 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | (R)-2-methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-eth-(E)-ylidene]-amide | BrC1=CC(=C(C(=N1)\C(\C)=N\[S@](=O)C(C)(C)C)F)[Si](CC)(CC)CC | C17H28BrFN2OSSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | trimethylchlorosilane | 3 drops | C[Si](Cl)(C)C | C3H9ClSi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 7.12 mmol, 466 mg | [Zn] | Zn
catalyst | copper(I) chloride | 0.344 mmol, 34 mg | [Cu]Cl
product | (R)-3-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester | 77% yield | C(C)OC(C([C@](C)(N[S@](=O)C(C)(C)C)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br)(F)F)=O | C21H34BrF3N2O3SSi
